US04496551
Preparation of Chloromethyl(2-chlorophenyl)(4-chlorophenyl)methylsilane
A solution of 6.3 ml (8.2 g, 0.05 mol) of chloromethyl(dichloro)methylsilane and 8.1 g (0.05 mol) of 2-bromochlorobenzene in 75 ml of dry tetrahydrofuran was chilled to -60° under N2 and stirred while 31 ml (0.05 mol) of 1.6 molar n-butyllithiumhexane solution was added at a rate that held the mixture below -55°. With continued cooling and stirring, 8.1 g (0.05 mol) of 4-bromochlorobenzene was added as a solid, followed by another 31 ml portion of the 1.6 molar n-butyllithium solution at a rate that held the mixture below -55° C. The resulting thin slurry was allowed to warm to room temperature, treated cautiously with 10 ml of ethyl acetate, and worked up as in Example 8 to give 15.0 g of a clear yellow oil. Distillation provided 5.9 g (37%) of the title compound: bp 150°-165° (0.7 mm); nD20 1.5916; ir (neat) 3060, 3020, 2960, 2920, 2870, 1580, 1560, 1490, 1420, 1380, 1255, 1125, 1115, 1085, 1035, 1015, 805, 750 cm-1 ; nmr (CDCl3) 0.8 (3H, s), 3.3 (2H, s), 7.2-7.7 (8H, m).

reactant | chloromethyl(dichloro)methylsilane | 0.05 mol, 6.3 ml, 8.2 g | ClC[SiH2]C(Cl)Cl | C2H5Cl3Si
reactant | 2-bromochlorobenzene | 0.05 mol, 8.1 g | BrC1=C(C=CC=C1)Cl | C6H4BrCl
reactant | n-butyllithiumhexane | 0.05 mol, 1.6 molar, 31 ml | CCCCCC.C(CCC)[Li]
reactant | 4-bromochlorobenzene | 0.05 mol, 8.1 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | n-butyllithium | 1.6 molar | C(CCC)[Li]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | Chloromethyl(2-chlorophenyl)(4-chlorophenyl)methylsilane | 15.0 g | ClC[SiH](CC1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C14H13Cl3Si
